US07625932B2
Preparation of 4-Cyano-3-(2′-cyano-biphenyl-4-yl)-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid (1H-[1,2,4]triazol-3-yl)-amide
prepare a solution of 4-cyano-3-(2′-cyano-biphenyl-4-yl)-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid (200 mg, 0.57 mmol, prepared in example A-75) in 5 mL of methylene chloride and stir under nitrogen. Add 2 drops of dry DMF and cool the mixture to 0° C. Next, add oxalyl chloride (1.10 mmol) dropwise over five minutes. Remove the icebath and stir the reaction for one hour. Add another 1.10 mmol of oxalyl chloride and continue stirring for one hour. Then concentrate the reaction mixture under vacuum to provide the crude acid chloride. Dissolve the crude acid chloride in 3.5 mL of dry pyridine and add 2-amino-1,3,4-triazole (5.9 mmol) and stir overnight at room temperature. Pour into 100 mL of ice-water and extract with methylene chloride (3×50 mL). Dry the combined organic layers over anhydrous Na2SO4, filter and evaporate. Chromatograph the residue over silica gel (100/0-3/1 toluene/EtOAc) to give the title compound (110 mg, 46% yield). MS(ES+, m/e)=422 (M++1).

reactant | 4-cyano-3-(2′-cyano-biphenyl-4-yl)-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid | C(#N)C=1C(=C(N(C1CC)C)C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C22H17N3O2
reactant | oxalyl chloride | 1.10 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 1.10 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-1,3,4-triazole | 5.9 mmol | NC=1NC=NN1 | C2H4N4
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | pyridine | 3.5 mL | N1=CC=CC=C1 | C5H5N
product | 4-Cyano-3-(2′-cyano-biphenyl-4-yl)-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid (1H-[1,2,4]triazol-3-yl)-amide | 110 mg, 46% yield | N1N=C(N=C1)NC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C#N)CC)C | C24H19N7O
